US08703952B2
N-[2-(6-Methyl-pyridin-3-yl)-ethyl]-N-p-tolyl-hydrazine
Crude 2-methyl-5-(N-nitroso-2-p-tolylaminoethyl)pyridine (612 mg, 2.4 mmol) was dissolved in dry THF (20 cm3) in a dry 3-neck flask under an argon atmosphere and cooled until the internal temperature was between 0-5° C. Solid LiAlH4 (290 mg, 7.7 mmol) was added and the reaction allowed to warm to room temperature. Following 2 hours stirring at room temperature, the reaction was again cooled to 0° C., and quenched with MeOH until no further gas evolution was observed (˜3 cm3). Saturated NaOH solution was then added (3 cm3), followed by H2O (3 cm3), and the medium extracted with CHCl3 (3×50 cm3), the combined extracts were dried (MgSO4), and solvent removed in vacuo to yield a crude orange oil. This could be carried forward to the next step if desired, or stored below 5° C. until required.

reactant | 2-methyl-5-(N-nitroso-2-p-tolylaminoethyl)pyridine | 2.4 mmol, 612 mg | CC1=NC=C(C=C1)CCN(N=O)C1=CC=C(C=C1)C | C15H17N3O
reactant | LiAlH4 | 7.7 mmol, 290 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 20 cm3 | C1CCOC1 | C4H8O
product | N-[2-(6-Methyl-pyridin-3-yl)-ethyl]-N-p-tolyl-hydrazine | CC1=CC=C(C=N1)CCN(N)C1=CC=C(C=C1)C | C15H19N3
